US05589514
Preparation of 1-(2,4,6-Trimethoxyphenyl)cyclohexene:
2,4,6-Trimethoxybromobenzene (1 eqvt.) was taken in a flame dried 3-necked flask under nitrogen. Dry tetrahydrofuran (THF) (983 ml) was added and the reaction mixture was cooled to -30° C. n-BuLi (1.3 eqvt.) in hexane (commercial) was added dropwise and after the addition the reaction mixture was stirred for 30 min. Thin layer chromatographic examination at this stage indicated completion of metallation reaction. Cyclohexanone (1.1 eqvt.) diluted with equal volume of dry THF was added to the reaction mixture at -30° C. and the reaction mixture was stirred for another one hour at -30° C. and later allowed to come to room temperature. Water (150 ml) was added and extracted with ethyl acetate. The ethyl acetate layer was dried over anhydrous sodium sulfate and concentrated. The residue was taken in dichloromethane and stirred for 30 min. with catalytic amount of p-toluenesulphonic acid (9 g). The dichloromethane layer was washed with sodium bicarbonate solution followed by water and dried. The residue was crystallized from Diisopropylether to give the title compound; m.p. 127° C., Yield: 64.7%.

reactant | 2,4,6-Trimethoxybromobenzene | COC1=C(C(=CC(=C1)OC)OC)Br | C9H11BrO3
reactant | Cyclohexanone | C1(CCCCC1)=O | C6H10O
reactant | Water | 150 ml | O | H2O
solvent | THF | O1CCCC1 | C4H8O
product | 1-(2,4,6-Trimethoxyphenyl)cyclohexene | Yield: 64.7% | COC1=C(C(=CC(=C1)OC)OC)C1=CCCCC1 | C15H20O3
